US04730003
7,7-Dimethyl-2-(1-cyclopenten-1-yl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 11, a mixture of 0.48 g. 5,6-diamino-3,3-dimethylindolin-2-one and 0.31 g. (1-cyclopenten-1-yl)-carboxylic acid is well stirred up with 4.5 g. warm polyphosphoric acid and then stirred for 30 minutes in a bath with a temperature of 200° C. After cooling, the reaction mixture is triturated with ice water, adjusted to pH 7-8 with concentrated aqueous ammonia solution and insoluble material is filtered off with suction, washed with water and dried, 0.51 g. of crude product thereby being obtained. This is repeatedly triturated with 6 ml. amounts of methanol, 0.25 g. of substance thereby remaining undissolved. This product is triturated three times with 6 ml. amounts of a mixture of methylene chloride/methanol (1:1 v/v), 0.14 g. of the desired title compound thereby being obtained which, per mole, still contains 2/3 mole methanol and 1 mole water; m.p. 233°-235° C.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | (1-cyclopenten-1-yl)-carboxylic acid | C1(=CCCC1)C(=O)O | C6H8O2
product | 7,7-Dimethyl-2-(1-cyclopenten-1-yl)-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3=CCCC3)C=C21)=O)C | C16H17N3O
